US04788210
starting from ethyl 2-chloro-6-fluorobenzimidate and o-trifluoromethyl-benzoyl chloride there is obtained ethyl N-(o-trifluoromethyl-benzoyl)-2-chloro-6-fluorobenzimidate and therefrom with methylhydrazine there is obtained 3-(2-chloro-6-fluorophenyl)-1-methyl-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, m.p. 80°-84° C.;

reactant | ethyl 2-chloro-6-fluorobenzimidate | ClC1=C(C(OCC)=N)C(=CC=C1)F | C9H9ClFNO
reactant | o-trifluoromethyl-benzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | ethyl N-(o-trifluoromethyl-benzoyl)-2-chloro-6-fluorobenzimidate | FC(C1=C(C(=O)N=C(C2=C(C=CC=C2F)Cl)OCC)C=CC=C1)(F)F | C17H12ClF4NO2
